Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
 tachypnea, hypoxia 
 
Major Surgical or Invasive Procedure:
hemodialysis

 
History of Present Illness:
HPI: ___ year old female with ESRD on HD, DM, HTN, and dementia, 
wo presents with tachypnea and hypoxia. She attended HD 
yesterday, where she was noted to be tachypneic, with 
respiratory rates in the ___. Her O2 sat was measured at 71% on 
RA, improving to 88% on 6L NC. Dialysis was held. Rapid flu test 
was positive, but tamiflu was not given because it is not 
available there. She was transferred to the ED.  
.  
In the ED, RR was initially 46, falling to the ___ 
spontaneously. O2 sat was 98%RA, temp 100.4. CXR showed ?RLL 
PNA. Repeat PA and Lateral films showed ?superimposed PNA in 
setting of flu vs. aspiration in setting of MS change. Tamiflu 
was given, and vanc/levo/flagyl was started. She also received 
IVFs.  
.  
Given concern for pre-sepsis, home BP meds were held overnight. 
This morning, her blood pressure was measured in the low 200s 
systolic. So she was given 10 IV hydralazine with no effect. She 
was then given several inches of nitropaste with BP improving 
only to 184/75. She was seen by nephrology, who took her to 
dialysis before admission.  

 
Past Medical History:
Past Medical History:
1.  End-stage renal disease. Anuric. On HD MWF with new L AV 
graft
2.  Diabetic nephropathy.
3.  Noninsulin-dependent diabetes mellitus.
4.  Hypertension.
5.  Cholecystectomy.
6.  s/p Nephrectomy.
7. mixed vascular and alzheimer's dementia
8.anemia, 
9. Infected AVG LUE, I&D ___

 
Social History:
___
Family History:
NC
 
Physical Exam:
Dispo Exam: 
VS: 98.6 / 97.3  68  154/80  20  95%2Lnc
GEN: WD, thin, elderly female
HEENT: NCAT, lips dry, EOMI
Neck: supple, no lad
Chest: limited due to shallow breathing, slight deminished 
breath sounds at bases, no wheezing at present
CV: RRR
Abd: soft, nt, nd, nabs
ext: no c/c/e
 
Pertinent Results:
   RADIOLOGY  Final Report
CHEST (PA & LAT)  ___ 11:34 ___

IMPRESSION: Developing multifocal air-space opacities bilateral 
lower lobes. Moderate pulmonary edema. 
.
.
.
.
.
.
.
.
.
.
................................................................
   RADIOLOGY  Final Report
CHEST (PORTABLE AP)  ___ 5:33 ___

IMPRESSION:
Possible early pneumonia in the right lung base. Evaluation 
limited by motion artifact. If necessary, PA and lateral views 
may be obtained for further evaluation.
.
.
.
.
.
.
.
.
.
................................................................
   RADIOLOGY  Final Report
CHEST (PORTABLE AP)  ___ 8:11 AM

FINDINGS:
A large bore left-sided catheter terminates in the superior vena 
cava. There is no appreciable change since the prior study. 
There are continued bilateral lower lobe opacities, suggestive 
of either aspiration or pneumonia. Heart is within normal 
limits. Aorta is tortuous.

IMPRESSION:
No appreciable change since the prior study.
.
.
.
.
.
.
.
.
.
.
................................................................

___ 06:30AM BLOOD WBC-6.6 RBC-4.00* Hgb-12.0 Hct-38.4 
MCV-96 MCH-30.1 MCHC-31.4 RDW-15.6* Plt ___
___ 05:55AM BLOOD WBC-7.0 RBC-3.83* Hgb-11.4* Hct-36.4 
MCV-95 MCH-29.8 MCHC-31.3 RDW-14.7 Plt ___
___ 05:50AM BLOOD WBC-8.8 RBC-3.57* Hgb-10.8* Hct-33.6* 
MCV-94 MCH-30.2 MCHC-32.0 RDW-14.5 Plt ___
___ 06:15AM BLOOD WBC-7.9# RBC-3.67* Hgb-11.1* Hct-35.2* 
MCV-96 MCH-30.4 MCHC-31.7 RDW-14.9 Plt ___
___ 09:10AM BLOOD WBC-4.6# RBC-3.92* Hgb-11.7* Hct-37.2 
MCV-95 MCH-29.8 MCHC-31.4 RDW-14.7 Plt ___
___ 09:30PM BLOOD WBC-2.1*# RBC-3.71* Hgb-11.2* Hct-35.0* 
MCV-94 MCH-30.3 MCHC-32.1 RDW-14.8 Plt ___
___ 09:10AM BLOOD Neuts-38* Bands-49* Lymphs-10* Monos-3 
Eos-0 Baso-0 ___ Myelos-0
___ 09:30PM BLOOD Neuts-52 Bands-22* Lymphs-13* Monos-8 
Eos-0 Baso-0 Atyps-4* Metas-1* Myelos-0
___:30AM BLOOD Plt ___
___ 05:55AM BLOOD Plt ___
___ 05:50AM BLOOD Plt ___
___ 06:15AM BLOOD Plt ___
___ 09:10AM BLOOD Plt Smr-LOW Plt ___
___ 09:30PM BLOOD Plt ___
___ 09:30PM BLOOD ___ PTT-24.3 ___
___ 06:30AM BLOOD Glucose-76 UreaN-56* Creat-6.3*# Na-144 
K-5.2* Cl-102 HCO3-24 AnGap-23*
___ 05:55AM BLOOD Glucose-105 UreaN-32* Creat-4.6*# Na-144 
K-4.4 Cl-102 HCO3-31 AnGap-15
___ 05:50AM BLOOD Glucose-50* UreaN-56* Creat-7.2*# Na-144 
K-5.3* Cl-105 HCO3-25 AnGap-19
___ 06:15AM BLOOD Glucose-42* UreaN-37* Creat-5.4* Na-144 
K-4.8 Cl-102 HCO3-26 AnGap-21*
___ 09:10AM BLOOD Glucose-79 UreaN-25* Creat-5.0* Na-140 
K-5.4* Cl-98 HCO3-30 AnGap-17
___ 07:15PM BLOOD Glucose-105 UreaN-14 Creat-4.1*# Na-139 
K-4.4 Cl-97 HCO3-32 AnGap-14
___ 06:30AM BLOOD Calcium-9.4 Phos-4.8* Mg-2.2
___ 05:55AM BLOOD Calcium-9.4 Phos-3.6 Mg-1.9
___ 05:50AM BLOOD Calcium-9.2 Phos-4.8* Mg-2.2
___ 06:15AM BLOOD Calcium-9.6 Phos-4.3 Mg-1.6
___ 09:10AM BLOOD Calcium-9.8 Phos-5.2*# Mg-1.5*
___ 07:15PM BLOOD Calcium-9.8 Phos-3.6 Mg-1.5*
___ 09:10AM BLOOD Vanco-23.0*
___ 07:04PM BLOOD Lactate-1.6
 
Brief Hospital Course:
Pt. was admitted to the general medical service after undergoing 
hemodilaysis.  The pt. blood pressure and respiratory status had 
greatly imprpoved.  She was continued on her antibiotics and 
given supportive care for the flu.  On HD 3  the pt. was febrile 
much of the day - given tylenol PRN and placed on a cooling 
blanket intermittently.  Her fever broke early evening and has 
been afebrile since.  The pt. did well HD 4 - taking her 
medications orally, maintaining blood pressures and respiratory 
rate, and remaining afebrile.  The pt. went to HD again on HD 5 
and was ready for discharge.  She was kept off of her oral 
hypoglycemic medication as her oral intake was very little while 
she was here and initially had quite low blood sugars.  They 
have returned to normal range - being covered only with a 
sliding scale.  The patient's hydralazine dose was also adjusted 
while here.  Her blood pressures have been well controlled with 
a dose of hydralazine 25mg po qid.  The patient is ready to 
return to ___ as she has been afebrile for 48 hours 
and repeat blood cultures are negative. 
.  
# PNA/Influenza: positive for Flu A & B from Nursing Home  
- Tamiflu renally dosed for 5 days total - started ___  
- Continue vanc/levo pending sputum cultures -> continuing 
antibiotics for now: levaquin x7 days and Vanc w/ HD
- only one bottle of from blood cultures in ED positive for 
staph epi -> likely contaminate and pt. got 3 doses of vanco 
with HD while here- no need for further therapy as repeat blood 
cultures negative  
- Monitor O2 sats and respiratory rates  
- Droplet precautions for influenza  
- F/u blood cultures -> coag neg staph from one bottle -> surv. 
cx pending  
- Follow VS, white count -> normal  
.  
# Bacteremia: question of related to pna, line infection, or 
contamination - as has not yet be speciated.  
- f/u cultures -> as above  
- continue antibiotics -> has finished Vanco doses -> will need 
to continue Levaquin for pneumonia  
.  
# HTN:  
- Dialysis MWF and PRN BP>180 systolic or 110 diastolic  
- ___: short HD + UF -> will be due again on ___ and then 
continue with regular schedule
- Continue hydralazine and titrate prn  
- Continue losartan  
.  
# ESRD:  
- Continue dialysis MWF  
- Continue Renagel, Calgest, losartan  
- with limited PO intake - pt. may require gentle hydration  
.  
# DM:  
- blood sugars quite low this am -> follow closely and D50 prn  
- Insulin SS  
- Continue Losartan  
- ___ blood sugars have improved; as pt. with minimal PO intake 
will continue to hold oral agents and cover with sliding scale  
- ___: blood sugars much improved; will continue to hold PO 
meds as pt. with very limited PO intake; continue ISS  
.  
# FEN:  
- IVFs if needed - guarded as pt. on HD and easily overloaded  
- Replete electrolytes PRN and check BID  
- puree diet due to risk of aspiration    
.  
# PPx:  
- SubQ heparin  
- On docusate  
- Add senna PRN  
.  
# Code (per MERIT note): FULL - ED resident discussed 
extensively with daughter ___. Patient has been on hospice 
for end stage dementia, but daughter wants full code for now. 
Contact ___ or ___  
.  
#Dispo: to ___ House

 
Medications on Admission:
Acetaminophen 325 mg  
Amlodipine 10 mg--1 tablet(s) by mouth once a day  
CALCIUM CARBONATE 500 mg--2 tablet(s) by mouth three times a day 
 
with meals  
COLACE 100 mg--1 capsule(s) by mouth twice a day  
COZAAR 50 mg--1 tablet(s) by mouth twice a day  
FLUOXETINE 10 mg--1 capsule(s) by mouth once a day  
GLIPIZIDE 5 mg--3 tablet(s) by mouth q am  
HUMULIN R 100 unit/mL--give per sliding scale per sl. sc.  
HYDRALAZINE 25 mg--3 tablet(s) by mouth three times a day, hold 
on  
dialysis days  
LORAZEPAM 0.5 ___ tab tablet(s) by mouth as needed up to 3  
doses per day for severe agitation  
NEPHROCAPS 1 mg--1 capsule(s) by mouth once a day  
RANITIDINE HCL 150 mg--1 tablet(s) by mouth once a day  
RENAGEL 800 mg--1 tablet(s) by mouth three times a day with  
meals  
Sensipar 30 mg--Tablet(s) by mouth once a day  
Vitamin B complex - 1 tab PO daily  
.  
Per Dr. ___: ASA 81 mg daily  

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
3. Sevelamer HCl 800 mg Tablet Sig: One (1) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
4. Oseltamivir Phosphate 75 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
5. Insulin Lispro 100 unit/mL Solution Sig: ___  Subcutaneous 
ASDIR (AS DIRECTED).  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
7. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

8. Losartan 50 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
10. Hydralazine 25 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours).  
11. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed for shortness of breath or 
wheezing.  
12. Albuterol Sulfate 2.5 mg/3 mL Solution for Nebulization Sig: 
One (1)  Inhalation Q6H (every 6 hours) as needed for shortness 
of breath or wheezing.  
13. Fluoxetine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
14. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO once a 
day.  
15. Aspirin EC 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
16. Sensipar 30 mg Tablet Sig: One (1) Tablet PO once a day.  
17. Ativan 0.5 mg Tablet Sig: 0.5 Tablet PO three times a day as 
needed for anxiety.  
18. Nephrocaps 1 mg Capsule Sig: One (1) Capsule PO once a day.  

19. Levaquin 250 mg Tablet Sig: One (1) Tablet PO once a day for 
4 days.  
20. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection BID (2 times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
flu
pneumonia

secondary:
- HTN
- IDDM
- ESRD: HD MWF
- End stage dementia
- Diastolic CHF

 
Discharge Condition:
good

 
Discharge Instructions:
you were admitted and treated for your hypertension, flu, and 
pneumonia.  You have been on antibiotics, getting hemodialysis, 
and receiving tamiflu while here.  You are now much improved and 
ready for discharge back to your rehab.

You will need to take all medications as instructed.

You will need to keep all follow-up appointments as indicated.

Call your primary care doctor or return to the ED if T>100.5, 
chills, nausea, vomiting, chest pain, shortness of breath, 
worsening pain, or any other concern.
 
Followup Instructions:
___